US07687508B2
To a mixture of benzyl (S)-1-((1S,2R,4R)-2-acetamido-4-(dimethylamino)cyclohexyl)-2-oxopyrrolidin-3-ylcarbamate (70 mg) and 10% Pd/C (30 mg of 50% wet catalyst) was added EtOAc (50 mL) and then the flask was evacuated and back-filled with hydrogen. The mixture was stirred under 1 atm H2 for 16 h and the catalyst was removed by filtration through Celite. The filtrate was concentrated in vacuo to give N-((1R,2S,5R)-2-((S)-3-amino-2-oxopyrrolidin-1-yl)-5-(dimethylamino)cyclohexyl)acetamide as a white solid (40 mg, 85% yield), which was taken on to the next step without further purification. LC/MS found [M+H]+=283.

reactant | benzyl (S)-1-((1S,2R,4R)-2-acetamido-4-(dimethylamino)cyclohexyl)-2-oxopyrrolidin-3-ylcarbamate | 70 mg | C(C)(=O)N[C@H]1[C@H](CC[C@H](C1)N(C)C)N1C([C@H](CC1)NC(OCC1=CC=CC=C1)=O)=O | C22H32N4O4
catalyst | Pd/C | 30 mg | [Pd] | Pd
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | N-((1R,2S,5R)-2-((S)-3-amino-2-oxopyrrolidin-1-yl)-5-(dimethylamino)cyclohexyl)acetamide | 40 mg, 85% yield | N[C@@H]1C(N(CC1)[C@@H]1[C@@H](C[C@@H](CC1)N(C)C)NC(C)=O)=O | C14H26N4O2
